* POST-LAYOUT MDAC: the extracted netlist WITH parasitics (965 R, 180 C).
* Magic emits `.subckt mdac_alpha` with NO port list, so the wrapper is
* stripped and the named nets are driven directly at top level.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include _mdac_pl.inc
.param iref=0.5u
VDD   vdd   0 3.3
VCASC vcasc 0 0.85
IREF  vg 0 {iref}
XPD   vg vg vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=2
XDIV4 vg vg4 vcasc vdd 0 mdac_div
VA0 a0 0 0
VA1 a1 0 0
VB0 b0 0 0
VB1 b1 0 0
VSGN  sgn  0 3.3
VSGNB sgnb 0 0
VOP vop 0 0.9
VON von 0 0.9
VMP vop iout_p 0
VMN von iout_n 0
.include ../mdac/mdac_weight_d2.inc
.control
set noaskquit
alter VA0 = 0.0
alter VA1 = 0.0
alter VB0 = 0.0
alter VB1 = 0.0
op
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 0.0
alter VB0 = 3.3
alter VB1 = 0.0
op
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 0.0
alter VB0 = 0.0
alter VB1 = 3.3
op
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 0.0
alter VB0 = 3.3
alter VB1 = 3.3
op
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 0.0
alter VB0 = 0.0
alter VB1 = 0.0
op
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 0.0
alter VB0 = 3.3
alter VB1 = 0.0
op
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 0.0
alter VB0 = 0.0
alter VB1 = 3.3
op
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 0.0
alter VB0 = 3.3
alter VB1 = 3.3
op
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 3.3
alter VB0 = 0.0
alter VB1 = 0.0
op
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 3.3
alter VB0 = 3.3
alter VB1 = 0.0
op
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 3.3
alter VB0 = 0.0
alter VB1 = 3.3
op
print -i(VMP)
alter VA0 = 0.0
alter VA1 = 3.3
alter VB0 = 3.3
alter VB1 = 3.3
op
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 3.3
alter VB0 = 0.0
alter VB1 = 0.0
op
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 3.3
alter VB0 = 3.3
alter VB1 = 0.0
op
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 3.3
alter VB0 = 0.0
alter VB1 = 3.3
op
print -i(VMP)
alter VA0 = 3.3
alter VA1 = 3.3
alter VB0 = 3.3
alter VB1 = 3.3
op
print -i(VMP)
.endc
.end
